US07655666B2
A solution of 4-acetylamino-3′-cyano-6-trifluoromethyl-biphenyl-3-carboxylic acid methyl ester (1.2 g, 3.3 mmol) in MeOH (10 mL)/water (2 mL) was cooled to 0° C., and concentrated sulfuric acid (0.7 mL) was added dropwise. Upon completion of the addition, the mixture was heated to reflux for 2 h under nitrogen, and then allowed to cool to r.t. The mixture was poured on ice water and extracted three times with 25 mL each of EtOAc. The combined organic phases were washed twice with water, dried over anhydrous sodium sulfate, filtered, and concentrated in vacuo providing 4-amino-3′-cyano-6-trifluoromethyl-biphenyl-3-carboxylic acid methyl ester (700 mg, 2.19 mmol, 66%) as a yellow foam, ESI-MS: m/z 321 [M+H]+.

reactant | 4-acetylamino-3′-cyano-6-trifluoromethyl-biphenyl-3-carboxylic acid methyl ester | 3.3 mmol, 1.2 g | COC(=O)C=1C=C(C(=CC1NC(C)=O)C(F)(F)F)C1=CC(=CC=C1)C#N | C18H13F3N2O3
reactant | water | 2 mL | O | H2O
reactant | sulfuric acid | 0.7 mL | S(O)(O)(=O)=O | H2O4S
solvent | MeOH | 10 mL | CO | CH4O
product | 4-amino-3′-cyano-6-trifluoromethyl-biphenyl-3-carboxylic acid methyl ester | 2.19 mmol, 700 mg, 66% | COC(=O)C=1C=C(C(=CC1N)C(F)(F)F)C1=CC(=CC=C1)C#N | C16H11F3N2O2
